US04022833
Condensation of 1-undecene oxide and N,N'-diethylhexamethylenediamine affords N,N'-(1,6-hexylene)-bis[N-ethyl-2-hydroxyundecylamine] (I: R= CH3 (CH2)8, R' = CH3CH2, X= (CH2)6, Z= H).

reactant | 1-undecene oxide | C1C(CCCCCCCCC)O1 | C11H22O
reactant | N,N'-diethylhexamethylenediamine | C(C)NCCCCCCNCC | C10H24N2
product | N,N'-(1,6-hexylene)-bis[N-ethyl-2-hydroxyundecylamine] | C(CCCCCN(CC)CC(CCCCCCCCC)O)N(CC)CC(CCCCCCCCC)O | C32H68N2O2
